US07163947B2
A solution of tert-butyl N′-(3-aminoquinolin-4-yl)hydrazinecarboxylate (2.18 g, 7.96 mmol) in 80 mL of anhydrous CH2Cl2 was cooled to 0° C. and treated with triethylamine (1.12 mL, 8.00 mmol) and valeryl chloride (0.95 mL, 8.00 mmol) under an atmosphere of nitrogen. After stirring for 3 h, the reaction mixture was concentrated under reduced pressure and the residue was treated with Et2O and filtered. The filtrate was concentrated and the resulting black tar was dissolved in 80 mL of ethanol and treated with 3 mL of triethylamine and the mixture was refluxed overnight. The reaction mixture was concentrated under reduced pressure. Chromatography (SiO2, 1–5% methanol (MeOH)/CHCl3) gave tert-butyl N-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)carbamate (1.41 g) as a mauve foam.

reactant | tert-butyl N′-(3-aminoquinolin-4-yl)hydrazinecarboxylate | 7.96 mmol, 2.18 g | NC=1C=NC2=CC=CC=C2C1NNC(=O)OC(C)(C)C | C14H18N4O2
reactant | triethylamine | 8.00 mmol, 1.12 mL | C(C)N(CC)CC | C6H15N
reactant | valeryl chloride | 8.00 mmol, 0.95 mL | C(CCCC)(=O)Cl | C5H9ClO
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl N-(2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)carbamate | 1.41 g | C(CCC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)NC(OC(C)(C)C)=O | C19H24N4O2
